US08283353B2
ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,3]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a mixture of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (470 mg), rhodium(II) acetate (dimer) (22 mg) and methylene chloride (10 mL) was added dropwise ethyl diazoacetate (137 mg) under an argon atmosphere, and the mixture was stirred at room temperature for 3 days. The reaction mixture was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=70/30→20/80 (volume ratio)] to give the title compound as a colorless amorphous compound (203 mg, 37%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 470 mg | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=NC2 | C28H29N5O2
reactant | ethyl diazoacetate | 137 mg | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium(II) acetate | 22 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,3]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=NC2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C32H35N5O4
